US07173031B2
B) 4-Chloro-6-(2-morpholinopyridin-4-yl)pyrrolo[2,1-f][1,2,4]triazine
To a suspension of 6-(2-morpholinopyridin-4-yl)pyrrolo[2,1-f][1,2,4]triazin-4-ol (110 mg, 0.37 mmol) in toluene (100 mL) were added one drop of DMF and POCl3 (30 mL). The flask was sealed and heated at 100° C. for 3 d. The reaction mixture was cooled to rt and concentrated in vacuo. The residue was then dissolved in DCM, neutralized with saturated aq. NaHCO3 solution and the organic layer was separated. The aqueous layer was extracted with DCM (2×50 mL). The combined organic layers were dried over MgSO4, filtered, and concentrated in vacuo to afford the desired product, which was used directly in the next step. MS(ESI) m/z 316.2/318.2 (M+H)+.

reactant | 6-(2-morpholinopyridin-4-yl)pyrrolo[2,1-f][1,2,4]triazin-4-ol | 0.37 mmol, 110 mg | O1CCN(CC1)C1=NC=CC(=C1)C=1C=C2C(=NC=NN2C1)O | C15H15N5O2
reactant | POCl3 | 30 mL | O=P(Cl)(Cl)Cl | Cl3OP
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
catalyst | DMF | one drop | CN(C)C=O | C3H7NO
product | 4-Chloro-6-(2-morpholinopyridin-4-yl)pyrrolo[2,1-f][1,2,4]triazine | ClC1=NC=NN2C1=CC(=C2)C2=CC(=NC=C2)N2CCOCC2 | C15H14ClN5O
